US07078414B2
10 mL (114.2 mmol) of oxalyl chloride are added at 20° C. under an argon atmosphere to 1.8 g (6.25 mmol) of 3-carboxy-2-methyl-1-(quinol-2-yl)-1H-pyrrole dissolved in 120 mL of dichloromethane. After stirring at 20° C. for 16 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give 2 g of 3-chlorocarbonyl-2-methyl-1-(quinol-2-yl)-1H-pyrrole hydrochloride in the form of a beige-coloured solid which is used directly in the following step.

reactant | oxalyl chloride | 114.2 mmol, 10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-carboxy-2-methyl-1-(quinol-2-yl)-1H-pyrrole | 6.25 mmol, 1.8 g | C(=O)(O)C1=C(N(C=C1)C1=NC2=CC=CC=C2C=C1)C | C15H12N2O2
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 3-chlorocarbonyl-2-methyl-1-(quinol-2-yl)-1H-pyrrole hydrochloride | 2 g | Cl.ClC(=O)C1=C(N(C=C1)C1=NC2=CC=CC=C2C=C1)C | InChI=1S/C15H11ClN2O.ClH/c1-10-12(15(16)19)8-9-18(10)14-7-6-11-4-2-3-5-13(11)17-14;/h2-9H,1H3;1H
